US08623889B2
(3-bromopyridin-4-yl)methanol
Diisobutylaluminum hydride (1.0M solution in tetrahydrofuran, 14 mL) was added to a solution of methyl 3-bromoisonicotinate (1.0 g, 4.6 mmol) in methylene chloride (15 mL) cooled at −15° C. After 1 hour at this temperature, the reaction was quenched by dropwise addition of saturated aqueous ammonium chloride solution (3 mL). The reaction mixture was diluted with ethyl acetate (50 mL) and washed with 1.0M citric acid solution in water (20 mL). The organic layer was separated, and the aqueous layer was neutralized via addition of solid sodium bicarbonate solution and then extracted with ethyl acetate (50 mL). The combined organic portions were dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-75% ethyl acetate in heptane) to afford the title compound as a white solid (110 mg, 75%), which was used in the next step without further purification.

reactant | Diisobutylaluminum hydride | 1.0M, 14 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-bromoisonicotinate | 4.6 mmol, 1.0 g | BrC1=C(C(=O)OC)C=CN=C1 | C7H6BrNO2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (3-bromopyridin-4-yl)methanol | 110 mg, 75% | BrC=1C=NC=CC1CO | C6H6BrNO
